US20010021718A1
5{-(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N-propyl-1,2,4-oxadiazole-3-carboxamide
A solution of (3R)-6-cyclohexyl-3-{3-[(propylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid (Preparation 9) (66 mg, 0.18 mmol) and N,N-diisopropylethylamine (31 μl, 0.18 mmol) in N-methyl-2-pyrrolidinone (3 ml) was treated with O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (102 mg, 0.27 mmol) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour. N,N-diisopropylethylamine (93 μl, 0.54 mmol) was then added, followed by hydroxylamine hydrochloride (37.5 mg, 0.54 mmol) and the mixture was stirred at room temperature for 18 hours. The mixture was partitioned between ethyl acetate and pH 7 aqueous buffer. The combined organic layers were washed sequentially with aqueous citric acid solution (5% w/v) and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (90:10) gradually changing to dichloromethane:ethyl acetate (0:100) then to dichloromethane:methanol (95:5) to afford the title compound as an oil (31 mg).

reactant | (3R)-6-cyclohexyl-3-{3-[(propylamino)carbonyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 0.18 mmol, 66 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)NCCC | C18H29N3O4
reactant | N,N-diisopropylethylamine | 0.18 mmol, 31 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.27 mmol, 102 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.54 mmol, 93 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydroxylamine hydrochloride | 0.54 mmol, 37.5 mg | Cl.NO
solvent | N-methyl-2-pyrrolidinone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 5{-(1R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N-propyl-1,2,4-oxadiazole-3-carboxamide | 31 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)NCCC | C18H30N4O4
